US07790710B2
C3. 1-(4-Bromo-benzenesulfonyl)-azetidine
4.09 g of azetidine are dissolved in a two-phase solvent system of 200 ml of dichloromethane and 130 ml of an aqueous potassium carbonate solution (strength 4.0 M). Subsequently, a solution of 15.25 g of commercially available 4-bromo-benzenesulfonyl chloride in 70 ml of dichloromethane is slowly added to the reaction mixture. Thereafter, the mixture is vigorously stirred for 17 hours at room temperature. For extraction, 200 ml of dichloromethane and 100 ml of water are added. The organic layer is dried using Na2SO4, filtered with suction, and concentrated in vacuo to yield 15.22 g of the title compound as a colorless, amorphous solid of m.p. 145° C. ESI-MS: 276.1/278.0 (MH+, 100%:95%). TLC: Rf=0.59 (dichloromethane/ethanol 10:1 parts by volume).

reactant | azetidine | 4.09 g | N1CCC1 | C3H7N
reactant | 4-bromo-benzenesulfonyl chloride | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | potassium carbonate | 4.0 M, 130 ml | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 1-(4-Bromo-benzenesulfonyl)-azetidine | 15.22 g | BrC1=CC=C(C=C1)S(=O)(=O)N1CCC1 | C9H10BrNO2S
